US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(2-FLUOROPHENYL)ETHYL]AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid [2-(2-fluorophenyl)ethyl]amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (70.7% yield). 1H NMR (400 MHz, CDCl3) δ 8.04, 7.95, 7.75-7.72, 7.63, 7.55, 7.36, 7.22-7.15, 7.05-6.97, 4.07-4.02, 3.89-3.83, 3.79-3.67, 3.35-3.32, 2.96.

reactant | 6-chloropyridazine-3-carboxylic acid [2-(2-fluorophenyl)ethyl]amide | FC1=C(C=CC=C1)CCNC(=O)C=1N=NC(=CC1)Cl | C13H11ClFN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(2-FLUOROPHENYL)ETHYL]AMIDE | FC1=C(C=CC=C1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H23F4N5O2
